US06372764B1
1-(7-Indolecarbonyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-(trifluoromethyl)pyrrolidine
A solution of 0.12 g (0.36 mmol) of 3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(RS)-(trifluoromethyl)pyrrolidine, 0.069 g (0.43 mmol) of indole-7-carboxylic acid, 0.088 g (0.72 mmol) of DMAP and 0.097 g (0.5 mmol) of 1-[3-(Dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (Aldrich) in 10 mL of CH2Cl2 was stirred at rt for 4 h. The reaction mixture was concentrated and the residue was purified by chromatography (silica, acetone:hexanes, 1:5) to give the title compound. 1H NMR (key peaks) (CDCl3) δ9.96 (s, 1H), 7.82 (d, 1H, J=8.0 Hz), 7.44 (d, 1H, J=7.5 Hz), 7.32 (t, 1H, J=3.0 Hz), 7.17-7.21 (m, 3H), 7.03 (t, t, 2H, J=8.5 Hz), 6.62-6.63 (m, 1H); Mass Spectrum (ESI) m/e=474 (M+1).

reactant | 3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(RS)-(trifluoromethyl)pyrrolidine | 0.36 mmol, 0.12 g | FC1=CC=C(C=C1)C1CCN(CC1)CC1CNCC1C(F)(F)F | C17H22F4N2
reactant | indole-7-carboxylic acid | 0.43 mmol, 0.069 g | N1C=CC2=CC=CC(=C12)C(=O)O | C9H7NO2
reactant | 1-[3-(Dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.5 mmol, 0.097 g | Cl.CN(CCCN=C=NCC)C
catalyst | DMAP | 0.72 mmol, 0.088 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-(7-Indolecarbonyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-(trifluoromethyl)pyrrolidine | N1C=CC2=CC=CC(=C12)C(=O)N1CC(C(C1)C(F)(F)F)CN1CCC(CC1)C1=CC=C(C=C1)F | C26H27F4N3O
